US04143061
3-(m-Trifluoromethyl-α,α-dimethylbenzyl)-1-methoxy-1-phenylurea
A solution of 2.2 g of m-trifluoromethyl-α,α-dimethylbenzyl isocyanate in 10 ml of dichloromethane was added dropwise to a solution of 1.1 g of N-phenylhydroxylamine in 10 ml of dichloromethane over a period of 10 minutes. After completion of the addition, the mixture was stirred for 30 minutes and the solvent was removed by distillation. The resulting white crystals were dried well and dissolved in 10 ml of a methanolic solution of 600 mg of sodium methoxide. 2.0 g of methyl iodide was added to the solution and the mixture was heated under reflux for 2 hours. The reaction mixture was concentrated and extracted with water and benzene. The benzene layer was washed successively with 2N aqueous sodium hydroxide and water and dried over anhydrous sodium sulfate. The solvent was removed by distillation and the resulting crystals were then recrystallized from a mixture of benzene and hexane to obtain 2.4 g of the title compound.

reactant | m-trifluoromethyl-α,α-dimethylbenzyl isocyanate | 2.2 g | FC(C=1C=C(C(C)(C)N=C=O)C=CC1)(F)F | C11H10F3NO
reactant | N-phenylhydroxylamine | 1.1 g | C1(=CC=CC=C1)NO | C6H7NO
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-(m-Trifluoromethyl-α,α-dimethylbenzyl)-1-methoxy-1-phenylurea | 2.4 g | FC(C=1C=C(C(C)(C)NC(N(C2=CC=CC=C2)OC)=O)C=CC1)(F)F | C18H19F3N2O2
